US05990102
b. Silver (3S,4R)-3-bromo-1-(p-methoxybenzyloxycarbonylmethyl)-2-oxoazetidine-4-thiolate
A solution of p-methoxybenzyl [(3S, 4R)-4-acetylthio-3-bromo-2-oxoazetidin-1-yl]acetate (4.13 g, 0.01 mol) in methanol (90 ml) was added with stirring in subdued light to a solution of silver nitrate (2.27 g, 0.0133 mol) in methanol (90 ml). Triethylamine (1.87 ml, 0.0133 mol) was then added with ice cooling, and stirring continued for 1 hr. at 5-10° C. followed by 30 min. at room temperature. The mixture was re-cooled (ice bath) and the precipitated solid filtered and washed twice with ice cold methanol then hexane to give the title compound, yield, 4.6 g (96%).

reactant | p-methoxybenzyl [(3S, 4R)-4-acetylthio-3-bromo-2-oxoazetidin-1-yl]acetate | 0.01 mol, 4.13 g | C(C)(=O)S[C@@H]1[C@H](C(N1CC(=O)OCC1=CC=C(C=C1)OC)=O)Br | C15H16BrNO5S
reactant | silver nitrate | 0.0133 mol, 2.27 g | [N+](=O)([O-])[O-].[Ag+]
reactant | Triethylamine | 0.0133 mol, 1.87 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 90 ml | CO | CH4O
solvent | methanol | 90 ml | CO | CH4O
product | Silver (3S,4R)-3-bromo-1-(p-methoxybenzyloxycarbonylmethyl)-2-oxoazetidine-4-thiolate | Br[C@H]1C(N([C@@H]1[S-])CC(=O)OCC1=CC=C(C=C1)OC)=O.[Ag+] | InChI=1S/C13H14BrNO4S.Ag/c1-18-9-4-2-8(3-5-9)7-19-10(16)6-15-12(17)11(14)13(15)20;/h2-5,11,13,20H,6-7H2,1H3;/q;+1/p-1/t11-,13+;/m0./s1
